US07572801B2
5-Fluoro-2-(4-methoxy-benzylamino)-nicotinamide (220 mg, 0.80 mmol) in CH2Cl2 (2 ml) and anisole (1 ml) was treated with TFA (2.57 ml, 34.6 mmol) at 60° C. for 3 hours. The reaction mixture was brought to dryness and the residue purified by column chromatography (silica gel, EtOAc/heptane, 1/4) to yield 2-amino-5-fluoro-nicotinamide (100 mg, 0.65 mmol; 81%) as yellow solid. MS (m/e): 156.1 [M+H+].

reactant | 5-Fluoro-2-(4-methoxy-benzylamino)-nicotinamide | 0.80 mmol, 220 mg | FC=1C=NC(=C(C(=O)N)C1)NCC1=CC=C(C=C1)OC | C14H14FN3O2
reactant | TFA | 34.6 mmol, 2.57 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 2-amino-5-fluoro-nicotinamide | 0.65 mmol, 100 mg, 81% | NC1=C(C(=O)N)C=C(C=N1)F | C6H6FN3O
